US04939241
A mixture of benzyl O-(O-benzyl-N-benzyloxycarbonyl-L-serinyl)-N-trifluoroacetyl-L-serinate (1 g) and 10% palladium on activated carbon (1 g) in acetic acid (30 ml) was hydrogenated under hydrogen at 40 psi at room temperature for 6 hours. The reaction mixture was filtered with Celite (filter aid, trade mark, made by Nakarai Chemicals) and the filtrate was concentrated in vacuo and the residue was diluted with water (50 ml) and lyophylized to give O-(L-serinyl)-N-trifluoroacetyl-L-serine (430 ml).

reactant | benzyl O-(O-benzyl-N-benzyloxycarbonyl-L-serinyl)-N-trifluoroacetyl-L-serinate | 1 g | C(C1=CC=CC=C1)OC[C@H](NC(=O)OCC1=CC=CC=C1)C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)OCC1=CC=CC=C1 | C30H29F3N2O8
catalyst | palladium on activated carbon | 1 g | [Pd] | Pd
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | O-(L-serinyl)-N-trifluoroacetyl-L-serine | 430 ml | N[C@@H](CO)C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)O | C8H11F3N2O6
